US06867323B2
Preparation of (1-Phenyl-3-buten-1-yloxy)-(2-octenyl)dimethylsilane
To a solution of 2-bromo-1-octene (1.25 g, 6.6 mmol, 1.1 equiv) in Et2O (7 mL) was added dropwise t-BuLi (1.5 M, 8.8 mL, 13.2 mmol, 2.2 equiv) under a N2 atmosphere at −78° C. (internal). The pale-yellow, cloudy mixture was stirred for 1 h at −78° C. (internal). The mixture was then added to a solution of dichlorodimethylsilane (1.82 mL, 15.0 mmol, 2.5 equiv) in Et2O (10 mL) by cannula at −78° C. (internal). The mixture was allowed to warm to room temperature and was stirred for 2 h whereupon a white solid precipitated. After removal of solvent and excess dichlorodimethylsilane under reduced pressure, hexane (50 mL) was added and the solids were removed by Schlenk filtration. After removal of the solvent, the residue was dissolved in CH2Cl2 (5 mL). The solution was then added to a solution of 1-phenyl-3-buten-1-ol (888 mg, 6.0 mmol , 1.0 equiv), 4-dimethylaminopyridine (110 mg, 0.9 mmol, 0.15 equiv), and Et3N (1.25 mL, 9.0 mmol, 1.5 equiv) in C2Cl2 (10 mL) under N2 atmosphere at 0° C. (internal). The mixture was allowed to warm to room temperate and was stirred for 2 h. The mixture was then poured to ice water (20 mL) and the aqueous phase was extracted with CH2Cl2 (2×20 mL). The combined organic layers were dried (Na2SO4), filtered and the solvent was removed by rotary evaporation. The residue was purified by chromatography (silica gel, hexane) followed Kugelrohr distillation under reduced pressure to afford 1.25 g (66%) of D-5 as a colorless liquid.

reactant | 2-bromo-1-octene | 6.6 mmol, 1.25 g, 1.1 equiv | BrC(=C)CCCCCC | C8H15Br
reactant | t-BuLi | 13.2 mmol, 1.5 M, 8.8 mL, 2.2 equiv | [Li]C(C)(C)C
reactant | dichlorodimethylsilane | 15.0 mmol, 1.82 mL, 2.5 equiv | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | 1-phenyl-3-buten-1-ol | 6.0 mmol, 888 mg, 1.0 equiv | C1(=CC=CC=C1)C(CC=C)O | C10H12O
reactant | Et3N | 9.0 mmol, 1.25 mL, 1.5 equiv | CCN(CC)CC | C6H15N
solvent | Et2O | 7 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 0.9 mmol, 110 mg, 0.15 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | (1-Phenyl-3-buten-1-yloxy)-(2-octenyl)dimethylsilane | C1(=CC=CC=C1)C(CC=C)O[Si](C)(C)CC=CCCCCC | C20H32OSi
